US08609656B2
Preparation of 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-purin-9-ylphenyl)urea (Table 1, Compound No. 5)
The title compound can be synthesized from purine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 1.

reactant | purine | N1=CN=C2N=CNC2=C1 | C5H4N4
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-chloro-3-(trifluoromethyl)phenyl)-3-(4-purin-9-ylphenyl)urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC=C2N=C1)C(F)(F)F | C19H12ClF3N6O
